* D:\Projects\ZekEng-Intern\LTSpice Files\TutorialRoman\TutorialRoman.asc
XU1 N005 N003 N001 N006 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Q1 N001 N004 Out 0 2N2222
Q2 N006 N004 Out 0 2N2907
R1 Out N003 100k
R3 N005 0 10k
R2 N003 N002 10k
V2 0 N006 15
V3 N001 0 15
R4 Out 0 1k
V1 N002 0 SINE(0 1 500k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\Yasen\AppData\Local\LTspice\lib\cmp\standard.bjt
* .ac dec 50 1k 10Meg
.tran 0 30u 10u 0.001u
.four 500k 10V(out)
.lib UniversalOpAmp2.lib
.backanno
.end
